Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Diarrhea, weight lsos
 
Major Surgical or Invasive Procedure:
Flexible sigmoidoscopy

 
History of Present Illness:
Ms. ___ is a ___ year old woman with Crohn's disease and
coarctation of the aorta who presents at the referral of her
gastroenterologist due to refractory GI symptoms. 

Ms. ___ reports that her symptoms have been worse since about
___ of this year. Her symptoms typically manifest as waking
up several times a night to have bowel movements, which are 
often
loose. Sometimes she wakes up ___ a night, but on bad nights 
she
will wake up every hour. This is often cramping associated with
this. She experiences urgency during the day.

She was trialed on budesonide without any improvement in her
symptoms. She was then started on prednisone 40mg daily on ___
with some mild improvement, and then increased to 60mg on ___.
She continues to wake up several times a night for bowel
movements. 

Ms. ___ has lost 50 pounds since ___ (181 to 135). None of
this weight loss was intentional. She maintains a good appetite,
though sometimes feels more full than she would expect. 

She previously had issues with arthritis with her flares, but
this has not been present lately. She does have some pain in the
bottoms of her feet, which she's experienced in the past. 

She denies hematochezia or melena. No fevers, chills. Some 
nausea
with bowel movements. No vomiting. Psoriasis much better
controlled lately. One episode of dizziness last week after not
drinking enough water. 

Crohn's course briefly summarized in ___ section based on Atrius
notes. 

 
Past Medical History:
- Crohn's disease 
- Vit D deficiency (failed multiple courses of Rx)
- ___ deficiency (requiring IV infusion)
- TNF induced psoriasis
- Heart murmur
- Coarctation of aorta s/p stenting as a child
 
Social History:
___
Family History:
- Father's cousin has ___
- No other family members with aortic coarctation 
- Father with DM
 
Physical Exam:
ADMISSION EXAM
==========================
Initial vital signs were notable for:  
- T 97.9, HR 90, BP 157/90, RR 18, O2 100% RA 
 
Exam notable for: 
- Con: In no acute distress, non-toxic
- HEENT: Normocephalic, atraumatic, Pupils equal, round and
reactive to light, Extraocular muscles intact. No meningismus or
neck TTP. No lymphadenopathy. Oropharynx benign. 
- Resp: Clear to auscultation, normal work of breathing
- CV: Regular rate and rhythm, normal ___ and ___ heart sounds,
2+ distal pulses in arms and legs. Capillary refill less than 2
seconds. No clinically significant murmur. 
-Abd: Soft, Nontender, Nondistended. No masses or overlying skin
changes. No organomegaly. 
- GU: No costovertebral angle tenderness
- MSK: No deformity or edema. No back TTP.
- Skin: No rash, Warm and dry
- Neuro: No lateralizing signs, cranial nerves II-XII grossly
intact, strength and sensation grossly intact all ext
- Psych: Normal mood/mentation

DISCHARGE EXAM
===============================
VITALS: 24 HR Data (last updated ___ @ 744)
    Temp: 98.0 (Tm 98.4), BP: 133/85 (133-146/83-86), HR: 73
(68-98), RR: 18 (___), O2 sat: 99% (98-99), O2 delivery: Ra   
GENERAL: well appearing, no acute distress
HEENT: PERRLA, no scleral icterus, +conjunctival pallor, moist
mucous membranes
NECK: supple, no lymphadenopathy, no JVD
CARDIAC: normal S1/S2, regular rate and rhythm, no MRG 
LUNGS: CTAB
ABDOMEN: Soft, non-distended, non-tender to palpation
EXTREMITIES: distal pulses 2+/symmetric, no edema bilaterally
SKIN: Mild psoriasis on scalp
NEUROLOGIC: A+Ox3, CN intact bilaterally, strength ___
bilaterally, sensation intact bilaterally
 
Pertinent Results:
ADMISSION LABS:
===========================
___ 05:51PM   GLUCOSE-138* UREA N-14 CREAT-0.7 SODIUM-137 
POTASSIUM-4.9 CHLORIDE-102 TOTAL CO2-23 ANION GAP-12
___ 05:51PM   estGFR-Using this
___ 05:51PM   CALCIUM-9.0 PHOSPHATE-3.6 MAGNESIUM-2.2
___ 05:51PM   CRP-53.4*
___ 05:51PM   WBC-5.6 RBC-2.72* HGB-9.3* HCT-29.2* MCV-107* 
MCH-34.2* MCHC-31.8* RDW-14.5 RDWSD-55.8*
___ 05:51PM   NEUTS-92.7* LYMPHS-4.4* MONOS-1.6* EOS-0.0* 
BASOS-0.4 IM ___ AbsNeut-5.22 AbsLymp-0.25* AbsMono-0.09* 
AbsEos-0.00* AbsBaso-0.02
___ 05:51PM   PLT COUNT-377
___ 05:51PM   ___ PTT-28.7 ___

PERTIENT LABS:
===========================
___ 05:17AM BLOOD WBC-5.9 RBC-2.86* Hgb-9.6* Hct-30.2* 
MCV-106* MCH-33.6* MCHC-31.8* RDW-14.6 RDWSD-55.6* Plt ___
___ 05:51PM BLOOD CRP-53.4*
___ 05:17AM BLOOD CRP-48.0*
___ 04:50PM BLOOD CRP-36.2*
___ 05:00AM BLOOD calTIBC-202* VitB12-745 Folate-9 
Ferritn-86 TRF-155*
___ 05:00AM BLOOD Albumin-3.4* Calcium-8.7 Phos-4.1 Mg-2.1 
___

DISCHARGE LABS:
============================
___ 05:17AM BLOOD WBC-5.9 RBC-2.86* Hgb-9.6* Hct-30.2* 
MCV-106* MCH-33.6* MCHC-31.8* RDW-14.6 RDWSD-55.6* Plt ___
___ 05:17AM BLOOD Plt ___
___ 05:17AM BLOOD Glucose-108* UreaN-9 Creat-0.7 Na-141 
K-4.6 Cl-102 HCO3-25 AnGap-14
___ 05:17AM BLOOD Albumin-3.7 Calcium-9.2 Phos-4.9* Mg-2.4
___ 05:17AM BLOOD ALT-10 AST-8 LD(LDH)-127 AlkPhos-65 
TotBili-0.4

MICRO:
============================
___ 1:21 am STOOL     CONSISTENCY: LOOSE      Source: 
Stool. 

                            **FINAL REPORT ___

   FECAL CULTURE (Final ___:    NO SALMONELLA OR SHIGELLA 
FOUND. 

   CAMPYLOBACTER CULTURE (Final ___:    NO CAMPYLOBACTER 
FOUND. 

   FECAL CULTURE - R/O VIBRIO (Final ___:    NO VIBRIO 
FOUND. 

   FECAL CULTURE - R/O YERSINIA (Final ___:    NO YERSINIA 
FOUND. 

   FECAL CULTURE - R/O E.COLI 0157:H7 (Final ___: 
      No E. coli O157:H7 found. 

   Cryptosporidium/Giardia (DFA) (Final ___: 
      NO CRYPTOSPORIDIUM OR GIARDIA SEEN. 

FLEXIBLE SIGMOIDOSCOPY PATHOLOGIC DIAGNOSIS (___):
Sigmoid colon, biopsy:
-Severely active chronic colitis with ulceration and granulomas.
-Negative for dysplasia. 

IMAGING:
===============================
CT ABOMDEN WITH CONTRST (___):
"IMPRESSION:
1. Mucosal hyperenhancement and engorgement of the Vasa recta 
involving the
transverse, descending, and sigmoid colon and rectum, consistent 
with Crohn's
disease.  No small bowel abnormality is identified."

PROCEDURES:
===============================
FLEXIBLE SIGMOIDOSCOPY (___):
"IMPRESSIONS:
DIffuse deep serpiginous ulcers in the sigmoid colon and patchy 
erosions in the proximal rectum"

 
Brief Hospital Course:
Ms. ___ is a ___ year old woman with Crohn's disease and 
coarctation of the aorta who presents at the referral of her 
gastroenterologist due to refractory GI symptoms consistent with 
Crohn's flare. Flex sig was consistent with active disease. She 
was started on IV steroids and transitioned to PO steroids at 
discharge. Her course was complicated by anemia due to likely 
___ deficiency and vitamin D deficiency. Ultimately, she was 
discharged home.

TRANSITIONAL ISSUES:
============================
#MEDICATION CHANGES
[ ] Medications started: Prednisone 40mg daily, Vitamin D 50000U 
1x/wk for 8 weeks, ferrous sulfate 325mg every other day, ensure 
enlive TID, 1 multivtaimin with minerals daily, thiamine 100mg 
daily for 5 days
[ ] Medications stopped: None
[ ] Medications changed: recommend Stelara SC Q4 weeks, 
Prednisone 60mg daily to 40mg daily as below

#GI
[ ] GI: Patient will need to be tapered off her steroid dosing. 
Given her long course of steroids, if she continues, please 
consider infectious and GI prophylaxis. 

#PCP
[ ] PCP: ___ will have to be changed to 800U D3 daily 
after 8 weeks of 50000U are completed
[ ] PCP: ___ dosing will have to be managed
[ ] PCP/GI: Patient evaluated by nutritional team, and concern 
for malnutrition. Started on ensure enlive and a multivitamin. 
Also encouraged to take thiamine OTC for 5 days
[ ] Aortic coarctation: patient encouraged to follow-up with 
outpatient cardiologist to ensure proper management of aortic 
coarctation

#CODE:
#CONTACT:

PROBLEM BASED SUMMARY:

#Crohn's Disease: Patient has had poorly controlled symptoms 
since ___ despite multiple therapies. She has previously 
been on Humira/Remicaide/Entyvio, recently started on Stelara 
and currently on prednisone/6-mercaptopurine. Despite current 
medications, she continued to note ongoing diarrhea with ___ 
bowel movements per night on average and 4 BM's each day, as 
well as significant weight loss, and thus, she was admitted for 
IV steroids. She underwent a flexible sigmoidoscopy, which 
demonstrated deep serpiginous ulcers in the sigmoid colon and 
patchy erosions in the proximal rectum. Biopsies demonstrated 
severe active chronic colitis with ulceration and granulomas, 
negative for dysplasia. Pt received 60mg IV solumedrol for 4 
days, and was transitioned to 40mg PO prednisone daily to start 
on ___ with plans to follow-up with Dr. ___ prior to 
starting a steroid taper. She also should be taking stelara SC 
Q4 weekly. Of note, initial CRP was 53.4 and it improved to 48 
and then to 36.2 on discharge.

#Anemia: Patient with history of ___ deficiency anemia, 
although there may be a component of anemia of chronic disease 
as well. Vitamin B12 and folate were within the normal range. 
She was started on IV ___ and transitioned to PO ___ 325mg 
every other day on discharge. HgB remained stable throughout 
hospitalization and it was 9.6 on discharge.

#Vitamin D Deficiency: Patient has history of vitamin D 
deficiency. 25-OH vitamin D was 15 on admission. She was started 
on Vtaimin D ___ U 1x/wk for 8 weeks. She should then be 
transitioned to 800 U of Vitamin D3.

#Aortic Coarctation: s/p stenting as a child. She was continued 
on home atenolol and encouraged to touch base with her 
cardiologist.

#Nutrition: Patient evaluated by nutrition team while inpatient. 
They recommended ensure enlive TID, MVI with minerals and 100mg 
thiamine x5 days. Patient encouraged to obtain these over the 
counter
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Allopurinol ___ mg PO DAILY 
2. Mercaptopurine 25 mg PO DAILY 
3. PredniSONE 60 mg PO DAILY 
4. Atenolol 12.5 mg PO DAILY 
5. Ustekinumab Dose is Unknown  IV Frequency is Unknown 

 
Discharge Medications:
1.  Ensure Enlive (food supplemt, lactose-reduced) 0.08 gram-1.5 
kcal/mL oral TID  
2.  Ferrous Sulfate 325 mg PO EVERY OTHER DAY 
RX *ferrous sulfate 325 mg (65 mg ___ 1 tablet(s) by mouth 
every other day Disp #*30 Tablet Refills:*0 
3.  Multivitamins W/minerals 1 TAB PO DAILY  
4.  PredniSONE 40 mg PO DAILY 
RX *prednisone 20 mg 2 tablet(s) by mouth once a day Disp #*60 
Tablet Refills:*0 
5.  Vitamin B-1 (thiamine HCl (vitamin B1)) 100 mg oral ONCE 
Duration: 5 Days  
6.  Vitamin D ___ UNIT PO 1X/WEEK (WE) Duration: 8 Weeks 
RX *ergocalciferol (vitamin D2) [Drisdol] 50,000 unit 1 
capsule(s) by mouth once a week every ___ Disp #*7 Capsule 
Refills:*0 
7.  Ustekinumab 260 mg IV ONCE EVERY 4 WEEKS Duration: 1 Dose 
Please follow up with gastroenterologist, Dr. ___, 
___ this medication  
8.  Allopurinol ___ mg PO DAILY  
9.  Atenolol 12.5 mg PO DAILY  
10.  Mercaptopurine 25 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
Crohn's disease flare
Secondary Diagnoses:
Anemia
___ deficiency
Vitamin D deficiency
Aortic Coarctation
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,  
 
It was a pleasure taking part in your care here at ___!  

Why was I admitted to the hospital?  
- You were admitted for Crohn's management  
 
What was done for me while I was in the hospital?  
- You were given steroids to help treat your Crohn's disese
- You underwent a flexible sigmoidoscopy to assess the extent of 
your Crohn's disease
- You were assessed for an infection, but the results did not 
reveal any infection
- You ___ was low so you were started on ___
- You were started on vitamin D because your vitamin D was low
- You were instructed to start some nutritional supplements 
including ensure enlive three times per day, one multivitamin 
with minerals daily and thiamine 100mg daily for 5 days

What should I do when I leave the hospital?  
- Please take oral prednisone 40mg daily until you see Dr. 
___. Please start taking this tomorrow
- Please schedule an appointment with Dr. ___ a few 
weeks
- Please continue to take your medications as prescribed 

Sincerely,  
Your ___ Care Team  
 
Followup Instructions:
___